US05059615
1 g (7 mmol) of α-cyanoacetophenone, 8 g (43 mmol) of 1,2-dibromoethane, 0.1 g (0.4 mmol) of 18-crown-6 and 4 g (69 mmol) of potassium fluoride are heated under reflux for 18 h as a heterogeneous system in 10 ml of dichloromethane. After cooling, the mixture is filtered, the organic phase is washed with H2O and the solvent is evaporated in vacuo after drying over Na2SO4. The residue is chromatographed on a silica gel using CH2Cl2. 0.25 g (20% of theory) of 1-benzoyl-1-cyanocyclopropane are obtained in this manner as a colorless oil,

reactant | α-cyanoacetophenone | 7 mmol, 1 g | C(#N)CC(=O)C1=CC=CC=C1 | C9H7NO
reactant | 1,2-dibromoethane | 43 mmol, 8 g | BrCCBr | C2H4Br2
reactant | 18-crown-6 | 0.4 mmol, 0.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium fluoride | 69 mmol, 4 g | [F-].[K+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-benzoyl-1-cyanocyclopropane | 0.25 g, 20% | C(C1=CC=CC=C1)(=O)C1(CC1)C#N | C11H9NO
